US07053089B2
4-[(3-Methoxy-5-methyl-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester
The above compound was prepared in a similar manner as described in EXAMPLE 130 from 4-[(3-methoxy-5-methyl-pyrazin-2-ylamino)-methyl]-piperidine using N-(benzyloxycarbonyloxy)succinimide (Sigma-Aldrich). M.S.(M+1): 371.

reactant | 4-[(3-methoxy-5-methyl-pyrazin-2-ylamino)-methyl]-piperidine | COC=1C(=NC=C(N1)C)NCC1CCNCC1 | C12H20N4O
reactant | N-(benzyloxycarbonyloxy)succinimide | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
product | 4-[(3-Methoxy-5-methyl-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=C(N=C1OC)C | C20H26N4O3
